2189-03-09 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2189-3-8**] 08:11 PM
 MULTI LUMEN - START [**2189-3-8**] 09:00 PM
 PERCUTANEOUS DRAIN INSERTION - At [**2189-3-8**] 10:55 PM
 BLOOD CULTURED - At [**2189-3-9**] 12:30 AM
   CT Scan --> Two large abcesses and Bilateral Pyelo
   Drainage --> "Stool" with GPCs, GNRs and Yeast
   Started Fluc
   Allergies:
   Sulfa (Sulfonamides)
   swelling;
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-9**] 06:00 AM
   Fluconazole - [**2189-3-9**] 06:09 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2189-3-8**] 10:30 PM
   Morphine Sulfate - [**2189-3-9**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2189-3-9**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.2
   HR: 115 (115 - 123) bpm
   BP: 115/64(73) {90/55(63) - 117/78(85)} mmHg
   RR: 33 (20 - 41) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,205 mL
                                                                    775 mL
   PO:
             TF:
   IVF:
                                                                    505 mL
                                                                    775 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    150 mL
                                                                    820 mL
   Urine:
                                                                    150 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,055 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Bowel sounds present, Distended, Tender:
   peritonitic
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   454 K/uL
   9.7 g/dL
   179 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.0 mEq/L
   25 mg/dL
   94 mEq/L
   131 mEq/L
   28.4 %
   13.3 K/uL
        [image002.jpg]
                             [**2189-3-9**]  12:30 AM
                             [**2189-3-9**]  04:00 AM
   WBC
   12.9
   13.3
   Hct
   29.2
   28.4
   Plt
   443
   454
   Cr
   1.0
   Glucose
   179
   Other labs: Differential-Neuts:80.0 %, Band:8.0 %, Lymph:3.0 %,
   Mono:8.0 %, Eos:0.0 %, Ca++:6.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   54 yo F with recurrent diverticulitis s/p sigmoid colectomy [**2-24**], with
   protracted post-op course complicated by persistent sinus tachycardia
   and ARF. She presents acutely with hypotension.
   .
   # Severe Sepsis: Patient meets SIRS criteria with fever, leukocytosis,
   tachycardia. Meets sepsis criteria with potential sources including
   intra-abdominal processes, PNA, and pyelo. Severe because hypotension
   with oliguria. CT abd yielded  two very large fluid collections, one of
   which was drained and was stool like.
   - Likely drain second collection and urge operative washout
   - fluid resuscitation with colloid (blood) and crystalloid, maintain
   MAP >65, CVP > 8
   - vanc, zosyn, d1= [**3-8**]
   - fluc, d1 = [**3-9**]
   - f/u bcx, ucx
   - hold anti-hypertensives
   .
   # Intraabdominal abcesses
   - Vanc/Zosyn d 1/ [**3-8**], Fluc d1=[**3-9**]
   - f/u surgery recs, especially regarding whether definitive management
   will need operative washout
   - f/u bcx
   .
   # Bilateral pyelonephritis - likely related to abscesses
   - continue abx as above
   - monitor urine output
   .
   # Sinus tachycardia: This has been a persistent problem since her
   operation and likely represents an appropriate response to pain,
   infection and hypotension. Greatest concerns are infection or acute
   intraabdominal process.
   - Fluid resuscitation as above
   - pain control: IV morphine, can switch to PCA with morph/dilaudid
   - Serial abdominal exams
   .
   # Acute renal failure: Baseline creatinine 0.6. Previous rise to 1.6
   with simultaneous decrease in urine output to 5-10cc/hr s/p contrast
   load with CTA. On [**3-8**], back up to 1.3 with FeNa of 0.3% and
   hypotension. Fell to 1.0 on [**3-9**] with fluid repletion. Also related to
   pyelonephritis. patient received fluids, bicarb and mucomyst prior to
   CT abdomen
   - IVF boluses for volume depletion, then maintenance
   - abx as above
   - Trend lytes, creatinine
   .
   # Anemia: Differential includes GIB, intra-abdominal bleed, chronic
   inflammation, hemolysis.
   - Transfuse in setting of hypoperfusion as above.
   - Stool guaiac
   .
   # Malnutrition
 low albumin, intolerant of PO, poor bowel sounds
   - considering TPN
   .
   # Tachypnea: More likely due to discomfort, worsened with po contrast
   load. Need to monitor for potential evolving metabolic acidosis.
   - pain control
   .
   # Abdominal pain/s/p sigmoid colectomy: POD13. As above.
   - pain control with dilaudid PCA with basal rate
   - OOB to chair when able
   - NG tube
   .
   # Leukocytosis: Elevated to 14.6 with abnormal differential including
   neutrophil pelger huet anomalies and monocytosis.
   - trend
   .
   # Thrombocytosis: acute elevation from 270's to 544 in the setting of
   fevers, hypotension and leukocytosis. Likely reactive, worry about
   abscess
   - trend
   - treat underlying condition
   .
   # Diabetes mellitus: Pt is NPO. Good control. Cont. ISS
   .
   # Hypothyroidism: Cont. home dose levothyroxine
   .
   # GERD: PPI
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: PBoots
   .
   Access: PICC, CVL
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-8**] 08:11 PM
   Multi Lumen - [**2189-3-8**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-03-09 09:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Went for CT then IR drainage of abscess
   Fever 101.3
   Feculent/yellow drainage from abscess
   States she is less uncomfortable now than prior to drain placement
   Allergies:
   Sulfa (Sulfonamides)
   swelling;
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-9**] 06:00 AM
   Fluconazole - [**2189-3-9**] 06:09 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2189-3-8**] 10:30 PM
   Morphine Sulfate - [**2189-3-9**] 05:30 AM
   Other medications: Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-9**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 116 (115 - 123) bpm
   BP: 118/70(81) {90/55(63) - 118/78(85)} mmHg
   RR: 29 (20 - 41) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,205 mL
                                                                  1,013 mL
   PO:
             TF:
   IVF:
                                                                    505 mL
                                                                  1,013 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    150 mL
                                                                    960 mL
   Urine:
                                                                    150 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,055 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Tender: diffuse on mild palpation
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   454 K/uL
   179 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.0 mEq/L
   25 mg/dL
   94 mEq/L
   131 mEq/L
   28.4 %
   13.3 K/uL
        [image002.jpg]
                             [**2189-3-9**]  12:30 AM
                             [**2189-3-9**]  04:00 AM
   WBC
   12.9
   13.3
   Hct
   29.2
   28.4
   Plt
   443
   454
   Cr
   1.0
   Glucose
   179
   Other labs: Differential-Neuts:80.0 %, Band:8.0 %, Lymph:3.0 %,
   Mono:8.0 %, Eos:0.0 %, Ca++:6.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   54 yr old pod 13 s/p sigmoid colectomy with hypotension, fever,
   tachycardia, and acute renal failure with oliguria. Has positive u/a
   but no culture sent. Wound culture growing E coli.  Leukocytosis with
   abnormal diff.
   Intraabdominal abscess/sepsis
   - not currently in shock. Has been persistently tachycardic slightly
   improved this AM. Feculent material draining from catheter. Will likely
   need surgical procedure.
   - bilateral pyelonephritis - positive u/a
   - no evidence of endocarditis or infected hardware.
   Abdominal pain
   - d/t pyelo vs peritonitis?
   - morphine prn or dilaudid at low basal rate
   Acute renal failure - improving, was prerenal by FENA 0.3%. Continue
   hydration as needed
   Anemia
 does not appear to have evidence of intra-abd bleed.
   Leukocytosis with bands/metas/monos - ? MDS
   Malnutrition
 diet was being advanced but NPO d/t ? ileus. Check
   pre-albumin. [**Month (only) 51**] need PPN or TPN. Nutrition consult.
   ICU Care
   Nutrition: npo for now
   Glycemic Control:
   Lines:
   PICC Line - [**2189-3-8**] 08:11 PM
   Multi Lumen - [**2189-3-8**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes, Patient is critically ill

2189-03-10 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2189-3-9**] 12:15 PM
 MIDLINE - STOP [**2189-3-9**] 09:05 PM
   - BCx [**3-8**] from PICC growing GNRs; pulled PICC per [**Doctor First Name **] recs
   - [**Doctor First Name **]: no OR unless patient decompensates, continue to watch drain
   output and bolus fluids to keep pressures up
   Allergies:
   Sulfa (Sulfonamides)
   swelling;
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-9**] 12:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-10**] 12:12 AM
   Fluconazole - [**2189-3-10**] 06:07 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2189-3-9**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-10**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.7
   HR: 116 (98 - 116) bpm
   BP: 111/69(80) {83/53(59) - 123/75(86)} mmHg
   RR: 39 (17 - 39) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 81.5 kg (admission): 74.6 kg
    CVP: 9 (7 - 13)mmHg
   Total In:
                                                                  3,732 mL
                                                                  1,105 mL
   PO:
   TF:
   IVF:
                                                                  3,171 mL
                                                                    791 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,060 mL
                                                                    940 mL
   Urine:
                                                                  1,710 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
                                                                    300 mL
   Balance:
                                                                  1,672 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   10.6 g/dL
   156 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.6 mEq/L
   18 mg/dL
   99 mEq/L
   133 mEq/L
   31.7 %
   10.4 K/uL
        [image002.jpg]
                             [**2189-3-9**]  12:30 AM
                             [**2189-3-9**]  04:00 AM
                             [**2189-3-9**]  02:32 PM
                             [**2189-3-10**]  03:47 AM
   WBC
   12.9
   13.3
   11.1
   10.4
   Hct
   29.2
   28.4
   29.1
   31.7
   Plt
   [**Telephone/Fax (3) 14669**]87
   Cr
   1.0
   0.8
   0.8
   TropT
   0.02
   Glucose
   179
   126
   156
   Other labs: PT / PTT / INR:15.9/37.5/1.4, CK / CKMB /
   Troponin-T:69/1/0.02, ALT / AST:[**10-16**], Alk Phos / T Bili:87/1.0,
   Amylase / Lipase:52/10, Differential-Neuts:80.0 %, Band:8.0 %,
   Lymph:3.0 %, Mono:8.0 %, Eos:0.0 %, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   54 yo F with recurrent diverticulitis s/p sigmoid colectomy [**2-24**], with
   protracted post-op course complicated by persistent sinus tachycardia
   and ARF. She presents acutely with hypotension.
   .
   # Severe Sepsis: Patient meets SIRS criteria with fever, leukocytosis,
   tachycardia. Meets sepsis criteria with potential sources including
   intra-abdominal processes, PNA, and pyelo. Severe because hypotension
   with oliguria. CT abd yielded  two very large fluid collections, one of
   which was drained and was stool like.
   - Likely drain second collection and urge operative washout
   - fluid resuscitation with colloid (blood) and crystalloid, maintain
   MAP >65, CVP > 8
   - vanc, zosyn, d1= [**3-8**]
   - fluc, d1 = [**3-9**]
   - f/u bcx, ucx
   - hold anti-hypertensives
   .
   # Intraabdominal abcesses
   - Vanc/Zosyn d 1/ [**3-8**], Fluc d1=[**3-9**]
   - f/u surgery recs, especially regarding whether definitive management
   will need operative washout
   - IR drainage of possible 2^nd collection today
   - f/u bcx
   .
   # Bilateral pyelonephritis - likely related to abscesses
   - continue abx as above
   - monitor urine output
   .
   # Rash
 Tender erythematous rash over right proximal and lateral
   thigh, tender to touch and blanching.  Differential includes cellultis
   (extension from underlying abscess) vs. venous thrombosis (pt has
   bilateral lower extremity pitting edema) vs. drug-induced.
   - on antibiotics that should cover possible cellulitis
   - LENIs to evaluate for DVT given bilateral lower extremity pitting
   edema
   .
   # Sinus tachycardia: This has been a persistent problem since her
   operation and likely represents an appropriate response to pain,
   infection and hypotension. Greatest concerns are infection or acute
   intraabdominal process.
   - Fluid resuscitation as above
   - pain control: IV morphine, can switch to PCA with morph/dilaudid
   - Serial abdominal exams
   .
   # Acute renal failure: Baseline creatinine 0.6. Previous rise to 1.6
   with simultaneous decrease in urine output to 5-10cc/hr s/p contrast
   load with CTA. On [**3-8**], back up to 1.3 with FeNa of 0.3% and
   hypotension. Fell to 1.0 on [**3-9**] with fluid repletion. Also related to
   pyelonephritis. patient received fluids, bicarb and mucomyst prior to
   CT abdomen. Improving
   - IVF boluses for volume depletion, then maintenance
   - abx as above
   - Trend lytes, creatinine
   .
   # Anemia: Differential includes GIB, intra-abdominal bleed, chronic
   inflammation, hemolysis.
   - Transfuse in setting of hypoperfusion as above.
   - Stool guaiac
   .
   # Malnutrition
 low albumin, intolerant of PO, poor bowel sounds
   - considering TPN
   .
   # Tachypnea: More likely due to discomfort, worsened with po contrast
   load. Need to monitor for potential evolving metabolic acidosis.
   - pain control
   .
   # Abdominal pain/s/p sigmoid colectomy: POD13. As above.
   - pain control with dilaudid PCA with basal rate
   - OOB to chair when able
   - NG tube
   .
   # Leukocytosis: Elevated to 14.6 with abnormal differential including
   neutrophil pelger huet anomalies and monocytosis.
   - trend
   .
   # Thrombocytosis: acute elevation from 270's to 544 in the setting of
   fevers, hypotension and leukocytosis. Likely reactive, worry about
   abscess
   - trend
   - treat underlying condition
   .
   # Diabetes mellitus: Pt is NPO. Good control. Cont. ISS
   .
   # Hypothyroidism: Cont. home dose levothyroxine
   .
   # GERD: PPI
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: PBoots
   .
   Access: PICC, CVL
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-3-9**] 07:09 PM 43.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-3-8**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-03-10 10:45:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Percutaneous drain placed by IR yesterday for drainage of right abd
   fluid collection (feculant drainage).
   Feels improved today.
   Awaiting drainage of left quadrant collection.
   Allergies:
   Sulfa (Sulfonamides)
   swelling;
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2189-3-9**] 12:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-10**] 12:12 AM
   Fluconazole - [**2189-3-10**] 06:07 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2189-3-9**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Neurologic: No(t) Headache
   Allergy / Immunology: Immunocompromised
   Signs or concerns for abuse : No
   Pain: [**1-22**] Mild
   Pain location: Abdominal
   Flowsheet Data as of  [**2189-3-10**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 112 (98 - 117) bpm
   BP: 115/69(79) {83/53(59) - 127/78(88)} mmHg
   RR: 29 (17 - 39) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 81.5 kg (admission): 74.6 kg
   CVP: 11 (7 - 13)mmHg
   Total In:
                                                                  3,732 mL
                                                                  2,163 mL
   PO:
   TF:
   IVF:
                                                                  3,171 mL
                                                                  1,708 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,060 mL
                                                                  1,270 mL
   Urine:
                                                                  1,710 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
                                                                    300 mL
   Balance:
                                                                  1,672 mL
                                                                    893 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: midline surgical incision, opened inferior
   aspect, Obese, Edema of right flank & upper thigh
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Tenderness of calves, right > left
   Skin:  Warm, Rash: Blanching erythema right thigh
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   387 K/uL
   156 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.6 mEq/L
   18 mg/dL
   99 mEq/L
   133 mEq/L
   31.7 %
   10.4 K/uL
        [image002.jpg]
                             [**2189-3-9**]  12:30 AM
                             [**2189-3-9**]  04:00 AM
                             [**2189-3-9**]  02:32 PM
                             [**2189-3-10**]  03:47 AM
   WBC
   12.9
   13.3
   11.1
   10.4
   Hct
   29.2
   28.4
   29.1
   31.7
   Plt
   [**Telephone/Fax (3) 14669**]87
   Cr
   1.0
   0.8
   0.8
   TropT
   0.02
   Glucose
   179
   126
   156
   Other labs: PT / PTT / INR:15.9/37.5/1.4, CK / CKMB /
   Troponin-T:69/1/0.02, ALT / AST:[**10-16**], Alk Phos / T Bili:87/1.0,
   Amylase / Lipase:52/10, Differential-Neuts:80.0 %, Band:8.0 %,
   Lymph:3.0 %, Mono:8.0 %, Eos:0.0 %, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   54 yof POD# 13 s/p sigmoid colectomy, now with sepsis (intraabdominal
   fluid collections/abscess).
   SEPSIS
 attributed to intraabdominal infection (absecess related to
   bowel srugery and pyelonephritis).  Clinical improvement s/p
   percutaneous drainage.  Continue antimicrobials, and currentl level of
   support.
   INTRAABDOMINAL ABSCESS
 attributed to recent surgery.  Monitor.  Await
   drainage of remaining large collection in left.
   RASH -- upper right thigh, right flank.  Concerns include infection
   (cellulitis) related to intraabdominal abscess or pyelonephritis or DVT
   --> plan LE NIVS bilaterally.
   ABDOMINAL PAIN
 attributed to recent surgery (incision), complicated
   by abseces and pyelonephritis.  Morphine or dilaudid prn.
   ACUTE RENAL FAILURE -- improving, was prerenal by FENA 0.3%. Continue
   hydration as needed
   ANEMIA
 No evidence for intra-abd bleed.  Monitor Hct.  Transfuse to
   Hct. >21.
   LEUKOCYTOSIS
 attributed to sepsis.
   NUTRITION
 NPO.  Consider TPN. Nutrition consult.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-3-9**] 07:09 PM 43.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-3-8**] 09:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2189-03-11 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - LENIS were negative.
   - IR drain placed on the left, drained purulent material.
   - fecal like material started drain out of the abdominal wound, Surgery
   notified, nothing to do, keep the course - may take patient back to the
   OR.
   - adding on IV flagyl and TPN with fat.
   - changed fluid to LR
   - increased dilaudid pca
   - drain flush orders started.
   Allergies:
   Sulfa (Sulfonamides)
   swelling;
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2189-3-10**] 12:12 AM
   Fluconazole - [**2189-3-10**] 06:07 AM
   Vancomycin - [**2189-3-10**] 08:05 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2189-3-11**] 04:19 AM
   Hydromorphone (Dilaudid) - [**2189-3-11**] 06:50 AM
   Lorazepam (Ativan) - [**2189-3-11**] 07:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-11**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.6
   HR: 109 (106 - 120) bpm
   BP: 109/64(74) {85/48(56) - 127/75(87)} mmHg
   RR: 37 (21 - 41) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 81.5 kg (admission): 74.6 kg
    CVP: 7 (7 - 14)mmHg
   Total In:
                                                                  3,664 mL
                                                                    967 mL
   PO:
   TF:
   IVF:
                                                                  2,589 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    690 mL
   Urine:
                                                                  2,020 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
                                                                    640 mL
                                                                    110 mL
   Balance:
                                                                  1,004 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   367 K/uL
   10.4 g/dL
   173 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   14 mg/dL
   100 mEq/L
   133 mEq/L
   32.3 %
   14.9 K/uL
        [image002.jpg]
                             [**2189-3-9**]  12:30 AM
                             [**2189-3-9**]  04:00 AM
                             [**2189-3-9**]  02:32 PM
                             [**2189-3-10**]  03:47 AM
                             [**2189-3-11**]  03:38 AM
   WBC
   12.9
   13.3
   11.1
   10.4
   14.9
   Hct
   29.2
   28.4
   29.1
   31.7
   32.3
   Plt
   [**Telephone/Fax (3) 14669**]87
   367
   Cr
   1.0
   0.8
   0.8
   0.6
   TropT
   0.02
   Glucose
   179
   126
   156
   173
   Other labs: PT / PTT / INR:16.2/41.3/1.4, CK / CKMB /
   Troponin-T:69/1/0.02, ALT / AST:[**10-16**], Alk Phos / T Bili:87/1.0,
   Amylase / Lipase:52/10, Differential-Neuts:80.0 %, Band:8.0 %,
   Lymph:3.0 %, Mono:8.0 %, Eos:0.0 %, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.6 mg/dL
   WOUND CULTURE (Final [**2189-3-10**]):
      ESCHERICHIA COLI.    MODERATE GROWTH.
      STAPH AUREUS COAG +.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ESCHERICHIA COLI
                             |          STAPH AUREUS COAG +
                             |          |
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
CLINDAMYCIN-----------           <=0.25 S
ERYTHROMYCIN----------           <=0.25 S
GENTAMICIN------------   <=1 S    <=0.5 S
LEVOFLOXACIN----------             0.25 S
MEROPENEM-------------<=0.25 S
OXACILLIN-------------           <=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S    <=0.5 S
   ANAEROBIC CULTURE (Final [**2189-3-10**]):
      BACTEROIDES FRAGILIS GROUP.    MODERATE GROWTH.
         BETA LACTAMASE POSITIVE.
   Assessment and Plan
   54 yo F with recurrent diverticulitis s/p sigmoid colectomy [**2-24**], with
   protracted post-op course complicated by persistent sinus tachycardia
   and ARF. She presents acutely with hypotension.
   .
   # Hypoxia/Respiratory failure
 pulmonary edema on exam and cxr in the
   setting of aggressive hydration, sepsis and hypoalbuminemia.
   - lasix today
   - likely intubation
   .
   # Severe Sepsis: Patient meets SIRS criteria with fever, leukocytosis,
   tachycardia. Meets sepsis criteria with potential sources including
   intra-abdominal processes, PNA, and pyelo. Severe because hypotension
   with oliguria. CT abd yielded  two very large fluid collections, one of
   which was drained and was stool like.
   - Likely drain second collection and urge operative washout
   - fluid resuscitation with colloid (blood) and crystalloid, maintain
   MAP >65, CVP > 8
   - vanc, zosyn, d1= [**3-8**], consider transition to nafcillin upon final
   speciation of GPCs
   - fluc, d1 = [**3-9**]
   - f/u bcx, ucx
   - hold anti-hypertensives
   .
   # Intraabdominal abcesses
   - Vanc/Zosyn d 1/ [**3-8**], Fluc d1=[**3-9**]
   - f/u surgery recs, especially regarding whether definitive management
   will need operative washout
   - IR drainage of possible 2^nd collection today
   - f/u bcx
   .
   # Bilateral pyelonephritis - likely related to abscesses
   - continue abx as above
   - monitor urine output
   .
   # Rash
 Tender erythematous rash over right proximal and lateral
   thigh, tender to touch and blanching.  Differential includes cellultis
   (extension from underlying abscess) vs. venous thrombosis (pt has
   bilateral lower extremity pitting edema) vs. drug-induced.
   - on antibiotics that should cover possible cellulitis
   - LENIs to evaluate for DVT given bilateral lower extremity pitting
   edema
   .
   # Sinus tachycardia: This has been a persistent problem since her
   operation and likely represents an appropriate response to pain,
   infection and hypotension. Greatest concerns are infection or acute
   intraabdominal process.
   - Fluid resuscitation as above
   - pain control: IV morphine, can switch to PCA with morph/dilaudid
   - Serial abdominal exams
   .
   # Acute renal failure: Baseline creatinine 0.6. Previous rise to 1.6
   with simultaneous decrease in urine output to 5-10cc/hr s/p contrast
   load with CTA. On [**3-8**], back up to 1.3 with FeNa of 0.3% and
   hypotension. Fell to 1.0 on [**3-9**] with fluid repletion. Also related to
   pyelonephritis. patient received fluids, bicarb and mucomyst prior to
   CT abdomen. Improving
   - IVF boluses for volume depletion, then maintenance
   - abx as above
   - Trend lytes, creatinine
   .
   # Anemia: Differential includes GIB, intra-abdominal bleed, chronic
   inflammation, hemolysis.
   - Transfuse in setting of hypoperfusion as above.
   - Stool guaiac
   .
   # Malnutrition
 low albumin, intolerant of PO, poor bowel sounds
   - considering TPN
   .
   # Tachypnea: More likely due to discomfort, worsened with po contrast
   load. Need to monitor for potential evolving metabolic acidosis.
   - pain control
   .
   # Abdominal pain/s/p sigmoid colectomy: POD13. As above.
   - pain control with dilaudid PCA with basal rate
   - OOB to chair when able
   - NG tube
   .
   # Leukocytosis: Elevated to 14.6 with abnormal differential including
   neutrophil pelger huet anomalies and monocytosis.
   - trend
   .
   # Thrombocytosis: acute elevation from 270's to 544 in the setting of
   fevers, hypotension and leukocytosis. Likely reactive, worry about
   abscess
   - trend
   - treat underlying condition
   .
   # Diabetes mellitus: Pt is NPO. Good control. Cont. ISS
   .
   # Hypothyroidism: Cont. home dose levothyroxine
   .
   # GERD: PPI
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: PBoots
   .
   Access: PICC, CVL
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   TPN without Lipids - [**2189-3-10**] 06:30 PM 49 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2189-3-8**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: